US09085517B2
5-chloro-4-{[(5-chloro-6-cyclopropylpyridin-3-yl)oxyl]methyl}-N-[(dimethylamino)sulfonyl]-2-fluorobenzamide diethylamine salt
To a stirred solution of 5-chloro-4-(((5-chloro-6-cyclopropylpyridin-3-yl)oxy)methyl)-2-fluorobenzoic acid (Preparation 27, 200 mg, 0.56 mmol) in dichloromethane (20 mL) was added HATU (256 mg, 0.67 mmol) and diisopropylethylamine (0.30 mL, 1.79 mmol). The reaction mixture was stirred at room temperature for 15 minutes before the addition of N,N-dimethylamino sulphonamide (209 mg, 1.68 mmol). The reaction mixture was stirred under nitrogen at room temperature for 18 hours. Upon completion the reaction mixture was washed with aqueous NH4Cl (15 mL) and brine (15 mL). The organic extracts were dried (MgSO4) and evaporated under vacuum to give the crude product as an orange oil, which was purified by column chromatography on silica (eluting with 1:1 cyclohexane/EtOAc). The partially purified product was dissolved in DMSO (2 mL) and purified by reverse phase chromatography (0-90% acetonitrile/water containing 0.1% formic acid) to afford the title compound as a beige solid (28 mg, 11%).

reactant | 5-chloro-4-(((5-chloro-6-cyclopropylpyridin-3-yl)oxy)methyl)-2-fluorobenzoic acid | 0.56 mmol, 200 mg | ClC=1C(=CC(=C(C(=O)O)C1)F)COC=1C=NC(=C(C1)Cl)C1CC1 | C16H12Cl2FNO3
reactant | HATU | 0.67 mmol, 256 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 1.79 mmol, 0.30 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,N-dimethylamino sulphonamide | 1.68 mmol, 209 mg | CNN(S(=O)=O)NC | C2H9N3O2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-chloro-4-{[(5-chloro-6-cyclopropylpyridin-3-yl)oxyl]methyl}-N-[(dimethylamino)sulfonyl]-2-fluorobenzamide diethylamine salt | 28 mg, 11% | C(C)NCC.ClC=1C(=CC(=C(C(=O)NS(=O)(=O)N(C)C)C1)F)COC=1C=NC(=C(C1)Cl)C1CC1 | InChI=1S/C18H18Cl2FN3O4S.C4H11N/c1-24(2)29(26,27)23-18(25)13-7-14(19)11(5-16(13)21)9-28-12-6-15(20)17(22-8-12)10-3-4-10;1-3-5-4-2/h5-8,10H,3-4,9H2,1-2H3,(H,23,25);5H,3-4H2,1-2H3
